US07345141B2
(Procedure 1): Triphenylamine methyl alcohol as a triphenylamine derivative and an acrylic acid chloride were dissolved in benzene, and then the resultant benzene solution was stirred at 0° C. for five hours so as to cause the triphenylamine methyl alcohol to react with the acrylic acid chloride. After the reaction, the benzene solution was evaporated under reduced pressure so as to obtain a triphenylamine methyl acrylate monomer as a crude crystal. Next, the crude crystal was recrystallized by benzene for purification. The reaction scheme of the triphenylamine methyl alcohol and the acrylic acid chloride is shown in Scheme 1.

reactant | Triphenylamine methyl alcohol | CO.C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1
reactant | triphenylamine | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15N
reactant | acrylic acid chloride | C(C=C)(=O)Cl | C3H3ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | triphenylamine methyl acrylate | COC(C=C)=O.C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H15N.C4H6O2/c1-4-10-16(11-5-1)19(17-12-6-2-7-13-17)18-14-8-3-9-15-18;1-3-4(5)6-2/h1-15H;3H,1H2,2H3
